Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left arm weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Time/Date the patient was last known well: ___

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale Score: 0

NIHSS performed within 6 hours of presentation at: 17:40 ___
NIHSS Total: 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 

Reason for consultation: Left hand weakness
 
History of Present Illness: 
The patient is a ___ right-handed woman who presents the
ED with complaints of episode of left handed weakness and
numbness this past ___.

She states that she had previously been in her usual state of
health.  ___ was a normal day for her and she felt great.  
On
___ she worked for approximately 10 hours felt somewhat
fatigued during the day, but this is not out of the ordinary for
her after work, she went for a walk which she did without any
difficulty.  She denies overexerting herself or feeling
dehydrated.  After returning from her walk, at approximately 5
___, she was in her house when she tried to lift a bag and 
noticed
that her left arm was "totally dead", meaning that she did not
grasp the bag at all.  She then tried to grab another object on
her cutting board, and again was unable to do so.  Within a
matter of minutes, she began to feel a "pins-and-needles"
sensation in the entirety of the left hand.  There was no 
sensory
change proximally to the hand.  Within 5 to 10 minutes of this,
she developed a brief, although intense, frontal headache.  She
describes this as aching denies any throbbing sensation.  She
also denies any vision changes, photophobia, phonophobia, 
nausea.

Because she was feeling fatigued, she went to the couch and lie
down.  She napped for about 30 to 60 minutes.  When she awoke,
just before 7 ___, all of her symptoms have resolved.  She was
able to use her hand without difficulty.  She did feel that her
energy level was somewhat less than usual.  She met up with some
friends for dinner, though because she was not feeling well she
went home early.  She went to bed at around 11 ___.

Since that time, she is continued to have a host of various
complaints.  At times, she feels dizzy or "foggy".  She feels
like she is speaking slower and taking longer to respond to
questions.  She is also had some nausea and decreased appetite. 
Apparently, some of her clients at work noticed that she seemed
to be somewhat subdued.  Over the weekend, she continued to feel
fatigued and mostly wanted to lie down.  As she is being
evaluated by her primary care doctor for hypertension, she
checked her blood pressure a few times.  Over the weekend, it 
was
as high as 190/98.  Last night it was 160 systolic.

She called her PCP today, who recommended she present to the
emergency department.  Currently, she continues to feel somewhat
fatigued and slow to respond.  She thinks her left side may not
be as strong as usual, but has a hard time describing what
exactly is weak.

She does endorse a history of occasional palpitations but has no
history of atrial fibrillation.
 
Review of Systems: 
On neurological review of systems, the patient denies confusion,
difficulties producing or comprehending speech, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. No bowel or bladder
incontinence or retention. 
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.
 
 
Past Medical History:
Past Medical History:
Hypertension- currently being monitored by her PCP, not on
medications 
Back pain 
Osteoarthrosis
Chronic Idiopathic Urticaria 
Eosinophilia
Gastroesophageal reflux
Skin cancer, basal cell 
Bronchiectasis with acute exacerbation 
                      
Past Surgical History;
Right total knee replacement

 
Social History:
       

Social History:
Works as NP in psychopharmacology. Lives alone. Independent in
all ADLs. No tobacco, alcohol, or illicit drug use.              


- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 

 
Family History:
Family History:
Mother had a total of three stroke as well as multiple cardiac
events. She was left with profound disability from the strokes.
Father died at age ___ from a ruptured cerebral aneurysm. Several
siblings have hypertension. 

 
Physical Exam:
Admission Physical Examination: 
Vitals: 98.2 76 148/88 18 98% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  No 
dysarthria.
Able to follow both midline and appendicular commands. Able to
register 5 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. 
Rapid
finger tapping was slightly slower on the left compared to 
right.
No adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      1     1
R   2     2      2      1     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Slow finger tap on left. No 
dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

===========================================================

Discharge Physical Exam: 
======================
Vitals: 98.0 F, HR 67 bpm, HR 149/82 mmHg, 99% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact 
repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  No 
dysarthria.
Able to follow both midline and appendicular commands. There was 
no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. 
Rapid
finger tapping was slightly slower on the left compared to 
right.
No adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    4+    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      1     1
R   2     2      2      1     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Finger tapping symmetric 
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. 

============================================
 
Pertinent Results:
Admission labs:
===============

___ 04:22PM   %HbA1c-5.3 eAG-105
___ 12:28PM   GLUCOSE-94 UREA N-14 CREAT-0.9 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-21* ANION GAP-16
___ 12:28PM   estGFR-Using this
___ 12:28PM   ALT(SGPT)-15 AST(SGOT)-19 ALK PHOS-59 TOT 
BILI-0.3
___ 12:28PM   cTropnT-<0.01
___ 12:28PM   ALBUMIN-4.0 CALCIUM-9.3 PHOSPHATE-3.8 
MAGNESIUM-1.9 CHOLEST-232*
___ 12:28PM   TRIGLYCER-186* HDL CHOL-59 CHOL/HDL-3.9 
LDL(CALC)-136*
___ 12:28PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:28PM   WBC-7.7 RBC-4.59 HGB-14.5 HCT-42.0 MCV-92 
MCH-31.6 MCHC-34.5 RDW-12.3 RDWSD-40.8
___ 12:28PM   NEUTS-54.9 LYMPHS-9.0* MONOS-13.8* EOS-21.1* 
BASOS-0.9 IM ___ AbsNeut-4.23 AbsLymp-0.69* AbsMono-1.06* 
AbsEos-1.62* AbsBaso-0.07
___ 12:28PM   PLT COUNT-248
___ 12:28PM   ___ PTT-30.8 ___

Imaging:
=========
CT/CTA head and neck
1. No acute intracranial abnormality.
2. Linear noncalcified curvilinear filling defect along the 
posterolateral
left carotid bulb at the origin of the left extracranial ICA is 
consistent
with a carotid web.
3. Otherwise normal CTA neck. No ICA stenosis by NASCET 
criteria.
4. Moderate changes of chronic white matter microangiopathy.
5. Minimal calcified plaque, right supraclinoid intracranial 
ICA, not causing
luminal narrowing. Otherwise normal CTA head. No large vessel 
occlusion. No
aneurysm.
6. Biapical solid pulmonary nodules measuring 1-2 mm. No 
specific imaging
follow-up is indicated. Other incidental findings, as above.

MRI: 
===
1. no evidence of mass, hemorrhage or recent infarction.
2. Punctate chronic infarct, left cerebellum.
3. Brainstem T2/FLAIR hyperintensities are nonspecific but 
compatible with
sequelae of prior ischemic injury or prior 
inflammation/infection.
4. Moderate to severe changes of chronic white matter 
microangiopathy.
5. Bilateral partial mastoid effusions.
 
Brief Hospital Course:
Patient is a ___ year old woman with a history of hypertension 
who presented to the ED after an episode of left hand weakness 
and numbness, which was accompanied by headache. The episode 
resolved after approximately 60 minutes but she has continued to 
experience various symptoms including fatigue, malaise, 
dizziness, etc since that time. 

#TIA/Arm weakness:
Exam on admission was remarkable for only slightly slow finger 
tapping on right and then discharge exam with only right finger 
extensor weakness. CT/CTA with minimal atherosclerosis with 
extra-cranial L carotid web (which would not explain left arm 
symptoms). MRI showed periventricular white matter changes 
consistent with chronic microvascular disease but no stroke with 
possible chronic L cerebellar infarct none of which fit her 
symptoms. By description, her episode seems consistent with a 
TIA. Atypical migraine is possible, though she does not have a 
history of migraine. A1c was 5.3, LDL 136. She was started on 
aspirin 81 mg daily and atorvastatin 40 mg daily. 
She had TTE which showed EF 69%. No ASD or left ventricular 
thrombus seen. Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Ziopatch was given on discharge. She will follow-up 
with stroke neurology in ___ months. 

[ ] Continue aspirin 81 mg and atorvastatin 40 mg daily
[ ] F/u with Stroke Neurology with Dr. ___ in ___ 
months.
[ ] Ziopatch (heart rhythm monitor) placed at discharge, results 
of this will be communicated to Dr. ___ who ___ 
reach out to you. 

#Hypertension:
As patient’s blood pressures were elevated to 130s-170s 
systolic, therefore we initiated her on lisinopril 2.5 mg daily. 
After receiving one dose in the morning, it was noted that her 
blood pressure decreased to 100s/60s over the course of the day 
and she reported dizziness with the lower blood pressures. 
Therefore we discontinued her lisinopril and recommend that the 
patient checks her blood pressures at home and at her PCP’s 
office. If her blood pressures are persistently elevated more 
than 140/90 mmHG then she should be started on 
antihypertensives.

[ ] Check Blood pressure and follow up with PCP if elevated 
persistently >140/90 to initiate on anti-hypertensives.

==============================================

Transitional Issues
===================

[ ] Follow up with your PCP for blood pressure check and repeat 
cholesterol check in 3 months. 
[ ] Continue aspirin 81 mg and atorvastatin 40 mg daily
[ ] F/u with Stroke Neurology with Dr. ___ in ___ 
months. If you do not hear back, call ___ to make this 
appointment. 
[ ] Ziopatch (heart rhythm monitor) placed at discharge, results 
of this will be communicated to Dr. ___ who ___ 
reach out to you. 

===============================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed â€“ () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 136) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL if LDL >70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No - Pt at baseline, symptoms resolved several days 
ago
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Cetirizine 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  Cetirizine 20 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO BID  
5.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You came to the hospital because you had weakness in your left 
hand that resolved.

When you were in the hospital you had an MRI of your brain which 
showed you did not have a stroke.

It is possible that your symptoms represent a migraine aura. 
These could also represent a TRANSIENT ISCHEMIC ATTACK (TIA). 
TIA is a condition where a blood vessel providing oxygen and 
nutrients to the brain is transiently blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.

TIA/Stroke can have many different causes, so we assessed you 
for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:

[ ] High Cholesterol
[ ] High blood pressure

Please note, we prescribed you blood pressure lowering 
medication lisinopril 2.5 mg, after receiving one dose your 
blood pressure decreased and you became dizzy, therefore we have 
discontinued this for now. 

We are changing your medications as follows:
[] Start taking aspirin 81 mg daily to prevent strokes
[] Take atorvastatin 40 mg daily to decrease cholesterol

[] Check your blood pressure at home and at your PCP's office. 
If this is persistently above 140/90 mmHg, you may need 
blood-pressure lowering medications. Therefore, please follow up 
and discuss this with your PCP.

[ ] Follow up with your PCP for blood pressure check and repeat 
cholesterol check in 3 months. 

[ ] Follow up with Stroke Neurology with Dr. ___ in 
___ months. If you do not hear back, call ___ to make 
this appointment.
 
[ ] Ziopatch (heart rhythm monitor) placed at discharge, results 
of this will be communicated to Dr. ___ who ___ 
reach out to you. 

Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body
Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___